US07485665B2
9.84 g of 4-acetylamino-5-chloro-2-methoxybenzoic acid, and 4.5 g of triethylamine were dissolved in 40 ml of dichloromethane, and 4.60 g of ethyl chlorocarbonate was added dropwise to the solution at not higher than 10° C. After stirring at the same temperature for 30 minutes, a solution of 7.03 g of (2S,4S)-(−)-1-acetyl-4-amino-2-hydroxymethylpyrrolidine in dichloromethane (20 ml) was added dropwise. After stirring at the same temperature overnight, water (20 ml) was added, precipitated crystals were filtered, and the resulting crystals were dried in a warm air at 50 to 55° C. to obtain 11.74 g of 4-acetylamino-5-chloro-2-methoxy-N-[(2S,4S)-1-acetyl-2-hydroxymethyl-4-pyrrolidinyl]benzamide.

reactant | 4-acetylamino-5-chloro-2-methoxybenzoic acid | 9.84 g | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 4.60 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | (2S,4S)-(−)-1-acetyl-4-amino-2-hydroxymethylpyrrolidine | 7.03 g | C(C)(=O)N1[C@@H](C[C@@H](C1)N)CO | C7H14N2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | 4-acetylamino-5-chloro-2-methoxy-N-[(2S,4S)-1-acetyl-2-hydroxymethyl-4-pyrrolidinyl]benzamide | 11.74 g | C(C)(=O)NC1=CC(=C(C(=O)N[C@H]2C[C@H](N(C2)C(C)=O)CO)C=C1Cl)OC | C17H22ClN3O5
